US08026257B2
(±)-1-(1-(Cyclopropylmethyl)-6-(trif luoromethyl)-1H-benzo[d]imidazol-4-yl)ethanol.
1-(Cyclopropylmethyl)-6-(trifluoromethyl)-1H-benzo[d]imidazole-4-carbaldehyde (0.323 g, 1.2 mmol) was dissolved in tetrahydrofuran (6 mL), cooled down to 0° C. and to it was added methylmagnesium bromide (1.0 M in dibutyl ether, 2.2 mL, 2.2 mmol) dropwise. After 1.5 h, saturated aqueous ammonium chloride was added and the mixture was extracted with ethyl acetate (3×30 mL). The organic layer was washed with water (20 mL), brine (20 mL) and dried (Na2SO4). The crude product obtained after evaporation of solvent was purified by flash chromatography on silica gel (2% MeOH/CH2Cl2) affording 286 mg (84%) of product as light yellow oil. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 8.11 (s, 1 H), 7.62 (s, 1 H), 7.46 (s, 1 H), 5.38-5.49 (m, 1 H), 4.16 (d, J=6.1 Hz, 1 H), 4.06 (d, J=7.0 Hz, 2 H), 1.70 (d, J=6.7 Hz, 3 H), 1.29-1.40 (m, 1 H), 0.69-0.80 (m, 2 H), 0.45 (q, J=5.2 Hz, 2 H). 308.17 (MNa)+.

reactant | 1-(Cyclopropylmethyl)-6-(trifluoromethyl)-1H-benzo[d]imidazole-4-carbaldehyde | 1.2 mmol, 0.323 g | C1(CC1)CN1C=NC2=C1C=C(C=C2C=O)C(F)(F)F | C13H11F3N2O
reactant | methylmagnesium bromide | 2.2 mmol, 1.0 M, 2.2 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (±)-1-(1-(Cyclopropylmethyl)-6-(trif luoromethyl)-1H-benzo[d]imidazol-4-yl)ethanol | 286 mg, 84% | C1(CC1)CN1C=NC2=C1C=C(C=C2C(C)O)C(F)(F)F | C14H15F3N2O
